US07507747B2
3-(2-Hydroxy-2,2-di-thiophen-2-yl-ethylidene)-8,8-dimethyl-8-azonia-bicyclo[3.2.1]octane iodide
A solution of 2-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-1,1-di-thiophen-2-yl-ethanol (10 mg, 0.03 mmol) in CH3CN (1 mL) and CH2Cl2 (0.5 mL) was mixed with methyliodide (0.038 mL, 0.6 mmol) and K2CO3 (0.1 g, 0.7 mmol). The mixture was stirred overnight at r.t. and filtered. Separation via a reverse-phase HPLC then afforded the title compound (10 mg, 96%): LCMS (ES) m/z 346 (M+H)+; 1H-NMR(CDCl3) δ 1.28 (m, 1H), 2.04 (m, 2H), 2.29 (m, 1H), 2.51 (m, 2H), 2.64 (m, 1H), 3.30 (s, 6H), 4.07 (m, 1H), 4.38 (m, 1H), 5.93 (s, 1H), 6.62 (m, 1H), 6.85 (m, 1H), 6.98 (m, 1H), 7.03 (m, 1H), 7.11 (m, 1H), 7.46 (m, 1H).

reactant | 2-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-1,1-di-thiophen-2-yl-ethanol | 0.03 mmol, 10 mg | CN1C2CC(CC1CC2)=CC(O)(C=2SC=CC2)C=2SC=CC2 | C18H21NOS2
reactant | methyliodide | 0.6 mmol, 0.038 mL | CI | CH3I
reactant | K2CO3 | 0.7 mmol, 0.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Hydroxy-2,2-di-thiophen-2-yl-ethylidene)-8,8-dimethyl-8-azonia-bicyclo[3.2.1]octane iodide | 10 mg, 96% | [I-].OC(C=C1CC2CCC(C1)[N+]2(C)C)(C=2SC=CC2)C=2SC=CC2 | InChI=1S/C19H24NOS2.HI/c1-20(2)15-7-8-16(20)12-14(11-15)13-19(21,17-5-3-9-22-17)18-6-4-10-23-18;/h3-6,9-10,13,15-16,21H,7-8,11-12H2,1-2H3;1H/q+1;/p-1
